US09056874B2
(±)-2-(hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)benzo[d]thiazole-6-carbonitrile
tert-Butyl 4-((6-cyanobenzo[d]thiazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (40 mg, 0.089 mmol) and Cs2CO3 (145 mg, 0.445 mmol) were mixed in THF (0.5 mL) and MeOH (0.5 mL), and stirred at 65° C. for 2 hours. NaBH4 (67 mg, 1.78 mmol) was added to the reaction mixture and stirred at rt for 1 hour to reduce the oxidative by-products. The reaction mixture was then concentrated dissolved in MeOH and purified with HPLC (HC-B) to provide the title compound. 1H NMR (400 MHz, CD3OD) δ ppm 8.45 (d, J=1.01 Hz, 1H) 7.92 (d, J=8.59 Hz, 1H) 7.73 (dd, J=8.59, 1.52 Hz, 1H) 7.15 (d, J=3.28 Hz, 1H) 6.62-6.88 (m, 2H) 6.42 (d, J=3.03 Hz, 1H) 3.82 (s, 3H) 2.50 (s, 3H). HRMS calcd. for C13H15N3O2S (M+H)+ 350.0958. found 350.096.

reactant | tert-Butyl 4-((6-cyanobenzo[d]thiazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.089 mmol, 40 mg | C(#N)C1=CC2=C(N=C(S2)C(C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)O)C=C1 | C24H23N3O4S
reactant | Cs2CO3 | 0.445 mmol, 145 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaBH4 | 1.78 mmol, 67 mg | [BH4-].[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
product | (±)-2-(hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)benzo[d]thiazole-6-carbonitrile | OC(C=1SC2=C(N1)C=CC(=C2)C#N)C2=C1C=CNC1=C(C=C2OC)C | C19H15N3O2S
